Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
___
 
Attending: ___
 
Chief Complaint:
Hypotension, ___ on CKD
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Mr. ___ is a ___ male with history metastatic
RCC, locally advanced cholangiocarcinoma s/p six months of
gemcitabine and cisplatin, and recent diagnosis of pancreatic
acinar cell carcinoma receiving liposomal irinotecan and
___ who presents with hypotension and acute on
chronic renal failure.

He reports that he checks his blood pressure using a machine at
home every morning. His BP this morning was 79/44 about 15
minutes after taking amlodipine, atenolol, and lisinopril. This
was associated with dizziness. Later in the morning repeat check
was 110/70. He notes decreased appetite. He had one loose small
bowel movement yesterday but otherwise no diarrhea.

He presented to clinic for follow-up His vitals were Temp 97.3,
BP 125/58, HR 72, RR 16, and O2 sat 100% RA. Labs were notable
for Cr 2.7 from baseline Cr 1.7-1.8. He was given 2L NS and
referred for direct admission to 11 ___.

On arrival to the floor, patient reports shortness of breath 
with
exertion, mild nausea without vomiting, and tingling in his
hands. He denies fevers/chills, night sweats, headache, vision
changes, weakness, cough, hemoptysis, chest pain, palpitations,
abdominal pain, nausea/vomiting, hematemesis,
hematochezia/melena, dysuria, hematuria, and new rashes.

REVIEW OF SYSTEMS: A complete 10-point review of systems was
performed and was negative unless otherwise noted in the HPI.

PAST ONCOLOGIC HISTORY:
- ___: Presented with acute onset of gross hematuria
accompanied with some mild flank pain. During his workup, he was
found to have a 4.8 cm mass on a CAT scan dated ___,
specifically the scan describes a left renal mass with internal
enhancement measuring 4.1 x 4.8 cm in size in the mid and upper
pole of the left kidney. Also described was the fat-containing
left inguinal hernia and left perinephric stranding. There was 
no
adenopathy or other suspicious lesions. There is also an old
sclerotic right ilial lesion and left sacral lesion.  
- ___: Underwent a laparoscopic hand assisted radical right
nephrectomy by Dr. ___ pathology showed a 
renal
cell carcinoma, clear cell type, ___ grade II/IV measuring 4
cm extending but not invading through the renal capsule or
Gerota's fascia margins were questionably positive at the renal
vein and otherwise negative. On review of pathology here at ___, the margins are described as negative including the 
renal
vein margin. A background of global glomerulosclerosis is
described. Overall, this was a T3bNxMx lesion. Postoperative
imaging on ___ which was a CT torso showed no evidence of
recurrent or metastatic disease.
- ___: CT chest showed interval increase in prominence of
mediastinal lymph nodes and minimal interval increase in 
multiple
b/l pulmonary nodules, concerning for progression
- ___: Fine needle aspirate of 11R and 11L lymph nodes, 
which
was consistent with metastatic RCC
- ___: CT Torso - mediastinal and hilar nodes and pulmonary
lesions increased in size. No definite intra-abdominal sites of
disease 
- ___: C1D1 ___, randomized to sunitinib
- ___: Multiple grade ___ adverse events including
thrombocytopenia (grade 2; platelet 52,000), leukopenia (grade 
2;
WBC 2.9), elevated lipase (grade 1), elevated amylase (grade 1;
elevated at baseline), elevated ALT (grade 1), and 
hypothyroidism
(grade 1). Mild symptoms with treatment. Continued sunitinib at
50mg daily per protocol.
- ___: CT Torso: Response of mediastinal lymphadenopathy,
bilateral hilar lymphadenopathy, and numerous parenchymal
metastases. Stable disease by RECIST (decrease 19.1% from
baseline).
- ___: Sunitinib reduced to 37.5 mg daily due to 
erythematous
rash and blistering on palms and sole of right foot.
- ___: CT Torso: Decrease in pulmonary and mediastinal
lesions. Stable disease by RECIST 1.1 (decrease 22.5% from
baseline).
- ___: CT Torso: Partial response by RECIST 1.1 (decrease
39.8% from baseline).
- ___: CT Torso: Partial response by RECIST 1.1 (decrease
46.3% from baseline).
- ___: CT Torso: Partial response by RECIST 1.1 (decrease
40.3% from baseline).
- ___: CT Torso: Partial response by RECIST 1.1 (decrease
42.6% from baseline).
- ___: CT Torso: Partial response by RECIST 1.1 (decrease
47.7% from baseline).
- ___: CT torso: Ongoing partial response comments: No
significant change compared to prior scan. No new lesions. 
- ___: CT Torso: PR by RECIST 1.1 
- ___: CT Torso: PR by RECIST 1.1: -54.22% change from
baseline and -10.29% change from last scan. 
-___: CT Torso: Partial response: -57.79% from baseline,
-7.79% from nadir
- ___: CT Torso shows continued partial response, no
significant change compared to prior
- ___: C25D1 held, admitted for biliary stricture
- ___: Resumed cycle 25 day 1
- ___: Admitted for biliary stricture and
cholangitis, diagnosed with pancreatobiliary adenocarcinoma and
taken off study. ERCP x2 with placement of plastic, then metal
biliary stent. EUS/biopsy of CBD mass showed new 
pancreatobiliary
adenocardinoma. 
- ___: C1D1 Gemcitabine 1000mg/m2 Cisplatin 25 mg/m2 D1,___: C2D1 Gemcitabine 1000mg/m2 Cisplatin 25 mg/m2 D1,___: C3D1 Gemcitabine 1000mg/m2 Cisplatin 25 mg/m2 D1,___: CT torso showed stable disease 
- ___: C4D1 Gemcitabine 1000mg/m2 Cisplatin 25 mg/m2 D1,___: C5D1 Gemcitabine 1000mg/m2 Cisplatin 25 mg/m2 D1,___: MR liver showed ongoing inoperable disease but
stable
- ___: C6D1 Gemcitabine 1000mg/m2 Cisplatin 25 mg/m2 
D1,15
dose modified for low counts
- ___: CT torso showed stable disease
- ___: C7D1 Gemcitabine 1000mg/m2 Cisplatin 25 mg/m2 
D1,15

- ___: C8D1 Gemcitabine 1000mg/m2 Cisplatin 18.75 mg/m2
D1,15 reduced for CKD
- ___: CT torso showed possible liver lesion and
pancreatic lesion. Biopsy of liver lesion suggests poorly
differentiated carcinoma. Biopsy of pancreas lesion suggests
acinar cell carcinoma.
- ___: C1D1 nanoliposomal irinotecan / ___ / leucovorin
___ I)

 
Past Medical History:
PAST ONCOLOGIC HISTORY (per OMR):
-___: presented with acute onset of gross hematuria
accompanied with some mild flank pain. During his workup, he was
found to have a 4.8 cm mass on a CAT scan dated ___,
specifically the scan describes a left renal mass with internal
enhancement measuring 4.1 x 4.8 cm in size in the mid and upper
pole of the left kidney. Also described was the fat-containing
left inguinal hernia and left perinephric stranding. There was 
no
adenopathy or other suspicious lesions. There is also an old
sclerotic right ilial lesion and left sacral lesion. 
-___: underwent a laparoscopic hand assisted radical right
nephrectomy by Dr. ___ pathology showed a 
renal
cell carcinoma, clear cell type, ___ grade II/IV measuring 4
cm extending but not invading through the renal capsule or
Gerota's fascia margins were questionably positive at the renal
vein and otherwise negative. On review of pathology here at ___, the margins are described as negative including the 
renal
vein margin. A background of global glomerulosclerosis is
described. Overall, this was a T3bNxMx lesion. Postoperative
imaging on ___ which was a CT torso showed no evidence of
recurrent or metastatic disease.
-___: CT chest showed interval increase in prominence of
mediastinal lymph nodes and minimal interval increase in 
multiple
b/l pulmonary nodules, concerning for progression
-___: Fine needle aspirate of 11R and 11L lymph nodes, which
was consistent with metastatic RCC
-___: CT Torso - mediastinal and hilar nodes and pulmonary
lesions increased in size. No definite intra-abdominal sites of
disease 
-___: C1D1 ___, randomized to sunitinib
-___: Multiple grade ___ adverse events including
thrombocytopenia (grade 2; platelet 52,000), leukopenia (grade 
2;
WBC 2.9), elevated lipase (grade 1), elevated amylase (grade 1;
elevated at baseline), elevated ALT (grade 1), and 
hypothyroidism
(grade 1). Mild symptoms with treatment. Continued sunitinib at
50mg daily per protocol.
-___: CT Torso: Response of mediastinal lymphadenopathy,
bilateral hilar lymphadenopathy, and numerous parenchymal
metastases. Stable disease by RECIST (decrease 19.1% from
baseline).
-___: Sunitinib reduced to 37.5 mg daily due to erythematous
rash and blistering on palms and sole of right foot.
-___: CT Torso: Decrease in pulmonary and mediastinal
lesions. Stable disease by RECIST 1.1 (decrease 22.5% from
baseline).
-___: CT Torso: Partial response by RECIST 1.1 (decrease
39.8% from baseline).
-___: CT Torso: Partial response by RECIST 1.1 (decrease
46.3% from baseline).
-___: CT Torso: Partial response by RECIST 1.1 (decrease 
40.3%
from baseline).
-___: CT Torso: Partial response by RECIST 1.1 (decrease
42.6% from baseline).
-___: CT Torso: Partial response by RECIST 1.1 (decrease
47.7% from baseline).
-___: CT torso: Ongoing partial response comments: No
significant change compared to prior scan. No new lesions. 
-___: CT Torso: PR by RECIST 1.1 
-___: CT Torso: PR by RECIST 1.1: -54.22% change from
baseline and -10.29% change from last scan. 
-___: CT Torso:  partial response: -57.79% from baseline,
-7.79% from nadir
-___: CT Torso shows continued partial response, no
significant change compared to prior

PAST MEDICAL HISTORY (per OMR):
1. Clear cell kidney cancer as above.
2. Benign prostatic hypertrophy.
3. Diabetes mellitus.
4. Hypertension.
5. Hyperlipidemia.
6. History of anxiety.

 
Social History:
___
Family History:
Colorectal cancer - mother
___ cancer - sister (dx at age ___
Liver cancer - brother
___ cell leukemia - brother
___ - father

 
Physical ___:
ADMISSION PHYSICAL EXAM:
VS: Temp 97.9, BP 150/74, HR 71, RR 20, O2 sat 100% RA.
GENERAL: Pleasant man, in no distress, lying in bed comfortably.
HEENT: Anicteric, PERLL, OP clear.
CARDIAC: RRR, normal s1/s2, no m/r/g.
LUNG: Appears in no respiratory distress, clear to auscultation
bilaterally, no crackles, wheezes, or rhonchi.
ABD: Soft, non-tender, non-distended, normal bowel sounds.
EXT: Warm, well perfused, no lower extremity edema.
NEURO: A&Ox3, good attention and linear thought, CN II-XII
intact. Gross strength and sensation intact.
SKIN: No significant rashes.
ACCESS: Right chest wall port without erythema.

DISCHARGE PHYSICAL EXAM:
VS: ___ 1623 Temp: 98.1 PO BP: 148/78 HR: 76 RR: 18 O2 sat: 
97% O2 delivery: RA 
GENERAL: Pleasant man, in no distress, lying in bed comfortably.
HEENT: Anicteric, PERLL, OP clear.
CARDIAC: RRR, normal s1/s2, no m/r/g.
LUNG: Appears in no respiratory distress, clear to auscultation 
bilaterally, no crackles, wheezes, or rhonchi.
ABD: Soft, non-tender, non-distended, normal bowel sounds.
EXT: Warm, well perfused, no lower extremity edema.
NEURO: A&Ox3, good attention and linear thought, CN II-XII 
intact. Gross strength and sensation intact.
SKIN: No significant rashes.
ACCESS: Right chest wall port without erythema.
 
Pertinent Results:
ADMISSION LABS:
___ 12:45PM BLOOD WBC-5.6 RBC-3.04* Hgb-9.1* Hct-28.6* 
MCV-94 MCH-29.9 MCHC-31.8* RDW-14.6 RDWSD-49.4* Plt ___
___ 12:45PM BLOOD Neuts-72.3* Lymphs-17.0* Monos-8.0 
Eos-2.0 Baso-0.2 Im ___ AbsNeut-4.05 AbsLymp-0.95* 
AbsMono-0.45 AbsEos-0.11 AbsBaso-0.01
___ 12:45PM BLOOD Plt ___
___ 12:45PM BLOOD UreaN-48* Creat-2.7* Na-135 K-4.7 Cl-102 
HCO3-18* AnGap-15
___ 12:45PM BLOOD ALT-24 AST-31 LD(LDH)-667* AlkPhos-173* 
TotBili-0.4
___ 12:45PM BLOOD Albumin-3.9 Calcium-9.4 Phos-3.1 Mg-2.1
___ 05:54AM BLOOD Hapto-271*
___ 10:41PM URINE Color-Straw Appear-Clear Sp ___
___ 10:41PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-NEG
___ 10:41PM URINE Hours-RANDOM Creat-78 Na-34

DISCHARGE LABS:
___ 05:47AM BLOOD WBC-5.2 RBC-2.74* Hgb-8.3* Hct-26.1* 
MCV-95 MCH-30.3 MCHC-31.8* RDW-14.6 RDWSD-49.2* Plt ___
___ 05:47AM BLOOD Plt ___
___ 05:47AM BLOOD Glucose-120* UreaN-26* Creat-1.7* Na-141 
K-4.9 Cl-106 HCO3-23 AnGap-12
___ 05:47AM BLOOD Calcium-9.0 Phos-3.9 Mg-2.0

PERTINENT STUDIES:
Radiology Report RENAL U.S. Study Date of ___ 8:18 AM 
COMPARISON:  CT abdomen and pelvis ___ 
  
FINDINGS:  
  
The left kidney is surgically absent.  A cortical defect is 
re-demonstrated in 
the interpolar region of the right kidney.  There is a 1.3 cm 
exophytic simple 
cyst arising from the lower pole of the right kidney, stable 
from the prior 
CT.  There is no hydronephrosis or stones bilaterally.  Normal 
cortical 
echogenicity and corticomedullary differentiation are seen 
bilaterally. 
Right kidney: 11.5 cm 
  
The bladder is moderately well distended and normal in 
appearance. 
  
IMPRESSION:  
  
No hydronephrosis.  Normal cortical echogenicity and 
corticomedullary 
differentiation within the remaining right kidney. 

Radiology Report CHEST (PORTABLE AP) Study Date of ___ 
7:22 ___ 
COMPARISON:  CT is available from ___. 
  
FINDINGS:  
  
Port terminates in the mid superior vena cava.  Cardiac, 
mediastinal and hilar 
contours appear stable.  There is no pleural effusion or 
pneumothorax.  Lungs 
appear clear. 
  
IMPRESSION:  
  
No evidence of acute cardiopulmonary process.

MICROBIOLOGY:
___ 10:41 pm URINE      Source: ___. 

                            **FINAL REPORT ___

URINE CULTURE (Final ___:    NO GROWTH. 

 
Brief Hospital Course:
Brief hospital summary:
=======================
Mr. ___ is a ___ male with history metastatic 
RCC, locally advanced cholangiocarcinoma s/p six months of 
gemcitabine and cisplatin, and recent diagnosis of pancreatic 
acinar cell carcinoma receiving liposomal irinotecan and 
___ who presents with hypotension and acute on 
chronic renal failure. Hypotension and ___ resolved with IVFs 
and holding BP medications. He was discharged in stable 
condition. 

Transitional issues:
==============
[] Hgb on discharge 8.3.
[] Held home lisinopril, atenolol, and amlodipine given concern 
for dehydration and hypotension. BPs improved during course of 
hospital stay.
[] Please titrate BP medications on outpatient basis as 
clinically indicated 
[] Cr on discharge 1.7 (baseline appears to be 1.4-1.7). Please 
recheck BMP within one week of discharge to trend Cr.
[] Glipizide held on discharge due to increase risk of 
hypoglycemia. Would consider d/c vs restart based on renal 
function

Acute issues:
==========
# Hypotension: Likely combination of poor PO intake and 
dehydration in setting of poor appetite and nausea from new 
chemotherapy regimen while continuing multiple home BP 
medications. Given IVF and held BP medications with resolution 
of hypotension. Orthostatics prior to discharge unremarkable. 

# ___ on CKD: Likely prerenal in setting of poor PO intake. FeNa 
<1% consistent with diagnosis. Held lisinopril which we will 
continue to hold upon discharge. Renal ultrasound without 
evidence of hydronephrosis. 

# Anemia: Likely secondary to chemotherapy and malignancy. 
Hemolysis labs reassuring. No clinical evidence of bleeding. Hgb 
on discharge 8.3.

Chronic issues:
===============
# Fatigue: Likely from anemia and chemotherapy side effect. 
Stable during course of hospitalization

# Pancreatic Acinar Cell Carcinoma:
# Cholangiocarcinoma:
# Secondary Neoplasm of Liver: Currently on palliative liposomal 
___. Follow-up with Dr. ___

# Metastatic Renal Cell Carcinoma:
# Secondary Neoplasm of Lung: He is on a treatment hold due to 
the management of his cholangiocarcinoma and now pancreatic 
cancer.

# Portal Vein Thrombus: continued home rivaroxaban

# BPH: continued home Flomax

# Hypothyroidism: continued home levothyroxine

# Diabetes: continued home lantus, started humalog ISS, and held 
home glipizide while in house and on discharge.

# Anxiety: continued home citalopram

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 10 mg PO DAILY 
2. Ascorbic Acid ___ mg PO DAILY 
3. Atenolol 50 mg PO DAILY 
4. Levothyroxine Sodium 100 mcg PO DAILY 
5. LORazepam 0.5 mg PO DAILY:PRN anxiety/insomnia 
6. Multivitamins 1 TAB PO DAILY 
7. Omeprazole 20 mg PO DAILY 
8. Ondansetron 8 mg PO Q8H:PRN nausea/vomiting 
9. Prochlorperazine 5 mg PO Q8H:PRN nausea/vomiting 
10. Tamsulosin 0.4 mg PO QHS 
11. Vitamin D 5000 UNIT PO DAILY 
12. GlipiZIDE 2.5 mg PO BID 
13. Lisinopril 10 mg PO DAILY 
14. Fenofibrate 48 mg PO DAILY 
15. Amoxicillin ___ mg PO PREOP 
16. Citalopram 20 mg PO DAILY 
17. Glargine 16 Units Bedtime
18. Rivaroxaban 10 mg PO DAILY 
19. Acetaminophen ___ mg PO Q8H:PRN Pain - Mild/Fever 
20. Cyanocobalamin 1000 mcg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q8H:PRN Pain - Mild/Fever  
2.  Ascorbic Acid ___ mg PO DAILY  
3.  Citalopram 20 mg PO DAILY  
4.  Cyanocobalamin 1000 mcg PO DAILY  
5.  Fenofibrate 48 mg PO DAILY  
6.  Glargine 16 Units Bedtime 
7.  Levothyroxine Sodium 100 mcg PO DAILY  
8.  LORazepam 0.5 mg PO DAILY:PRN anxiety/insomnia  
9.  Multivitamins 1 TAB PO DAILY  
10.  Omeprazole 20 mg PO DAILY  
11.  Ondansetron 8 mg PO Q8H:PRN nausea/vomiting  
12.  Prochlorperazine 5 mg PO Q8H:PRN nausea/vomiting  
13.  Rivaroxaban 10 mg PO DAILY  
14.  Tamsulosin 0.4 mg PO QHS  
15.  Vitamin D 5000 UNIT PO DAILY  
16. HELD- amLODIPine 10 mg PO DAILY  This medication was held. 
Do not restart amLODIPine until you discuss with your primary 
care doctor.
17. HELD- Atenolol 50 mg PO DAILY  This medication was held. Do 
not restart Atenolol until you discuss with your primary care 
doctor.
18. HELD- GlipiZIDE 2.5 mg PO BID  This medication was held. Do 
not restart GlipiZIDE until you follow up with your PCP.
19. HELD- Lisinopril 10 mg PO DAILY  This medication was held. 
Do not restart Lisinopril until you discuss with your primary 
care doctor.

 
Discharge Disposition:
Home With Service
 
Facility:
___ 
 
Discharge Diagnosis:
Acute Issues:
==========
Hypotension
Acute on chronic CKD

Secondary Issues:
=============
Hypertension
CKD

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
======================  
DISCHARGE INSTRUCTIONS  
======================  
Dear Mr. ___,
 
It was a pleasure caring for you at ___ 
___.  
 
WHY WAS I IN THE HOSPITAL?  
 - You were admitted for low blood pressures 
 
WHAT HAPPENED TO ME IN THE HOSPITAL?  
 - We gave you fluids through an IV, and we held your blood 
pressure medications. Your blood pressures eventually improved 
to normal range. 
 -  We monitored your kidney function which improved with fluids 
and holding your blood pressure medications. 

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?  
 - Continue to take all your medicines and keep your 
appointments.  
 - Do not take any of your blood pressure medications until you 
discuss with your primary care doctor.

We wish you the best!  
 
Sincerely,  
Your ___ Team 
 
Followup Instructions:
___